** 
*.subckt DFFQU1 CK D Q CKB CKP VDD GND
.subckt DFFQU1 CK D Q VDD GND
*.ipin CK
*.ipin D
*.opin Q
MXCKIV1P CKB CK VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV2P CKP CKB VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV1P1 net1 D VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV1P2 ml_ax CKP net1 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXIV1P ml_b ml_ax VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV2P1 net3 ml_b VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV2P2 ml_ax CKB net3 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXTFGP ml_b CKB sl_ax VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV3P1 net5 sl_b VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV3P2 sl_ax CKP net5 VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXOUTIVP Q sl_b VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXCKIV1N CKB CK GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCKIV2N CKP CKB GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCKIV1N2 ml_ax CKB net2 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCKIV1N1 net2 D GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXIV1N ml_b ml_ax GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXTFGN ml_b CKP sl_ax GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXOUTIVN Q sl_b GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCKIV3N2 sl_ax CKB net6 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCKIV3N1 net6 sl_b GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCKIV2N2 ml_ax CKP net4 GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXCKIV2N1 net4 ml_b GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
MXIV2P sl_b sl_ax VDD VDD PMOS w=10.2u l=1u nrd=0 nrs=0 m=1
MXIV2N sl_b sl_ax GND GND NMOS w=3.4u l=1u nrd=0 nrs=0 m=1
.ends
*.GLOBAL VDD
*.GLOBAL GND
*.end
